US07320972B2
Triethylamine (1 mL) was added at room temperature to 1,2,3,4-tetra-O-acetyl-6-O-(3-bromophenyl)-β-D-glucopyranose (200 mg, 0.40 mmol) dissolved in 5: I methanol-water (6 mL). The reaction progress was monitored by LCMS and TLC (20% ethyl acetate-dichloromethane). Upon completion, the solvents were removed in vacuo to afford 6-O-(3-bromophenyl)-β-D-glucopyranose which was carried on without further purification.

reactant | Triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
reactant | 1,2,3,4-tetra-O-acetyl-6-O-(3-bromophenyl)-β-D-glucopyranose | 0.40 mmol, 200 mg | C(C)(=O)O[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC1=CC(=CC=C1)Br | C20H23BrO10
reactant | methanol water | 6 mL | CO.O
solvent | ethyl acetate dichloromethane | C(C)(=O)OCC.ClCCl
product | 6-O-(3-bromophenyl)-β-D-glucopyranose | BrC=1C=C(C=CC1)OC[C@@H]1[C@H]([C@@H]([C@H]([C@H](O)O1)O)O)O | C12H15BrO6
